US05623081
1-Chloroethyl p-Nitrophenyl Carbonate
To a ice cooled mixture of 27.8 g of p-nitrophenol, 16.0 g of pyridine and 1 L of chloroform is added, dropwise, 34 g of alpha-chloroethyl chloroformate. After 1 hour, the ice bath is removed and the reaction is stirred for 16 hours at room temperature. The mixture is washed with water, 0.5% sodium hydroxide and water. The organic layer is dried and concentrated in vacuo to give 47.85 g of the desired product.

reactant | p-nitrophenol | 27.8 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | pyridine | 16.0 g | N1=CC=CC=C1 | C5H5N
reactant | alpha-chloroethyl chloroformate | 34 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | chloroform | 1 L | C(Cl)(Cl)Cl | CHCl3
product | 1-Chloroethyl p-Nitrophenyl Carbonate | 47.85 g | C(OC(C)Cl)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C9H8ClNO5
